US04443475
Preparation of acetyl carnitine trifluoroethyl amide (Process B)
To a solution of 2,2,2-trifluoroethylamine hydrochloride (2.7 grams; 0.02 moles) in tetrahydrofuran (150 ml) and triethylamine (2.8 ml; 0.02 moles) was added acetyl carnitine chloride (4.8 grams; 0.02 moles) in water (10 ml) and lastly N,N'-dicyclohexylcarbodiimide (4.2 grams; 0.02 moles) dissolved in tetrahydrofuran (50 ml). The reaction mixture was kept for a whole day under stirring at room temperature. A precipitate formed. The precipitate consisting of dicyclohexyl urea was filtered and the filtrate was concentrated until complete removal of tetrahydrofuran. The residual aqueous solution was washed with CHCl3 (2×50 ml), then evaporated to dryness. The raw solid was taken up with CH3CN (30 ml), and the resulting mixture was kept at 0° C.-5° C. for 2 hours. After filtering off the unreacted acetyl carnitine, if any, upon addition of ethyl acetate-ethyl ether to the filtrate a product crystallized as a very hygroscopic solid which was stored in a nitrogen atmosphere in anhydrous conditions.

reactant | 2,2,2-trifluoroethylamine hydrochloride | 0.02 moles, 2.7 grams | Cl.FC(CN)(F)F
reactant | triethylamine | 0.02 moles, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl carnitine chloride | 0.02 moles, 4.8 grams | C(C)(=O)C(O)(C[N+](C)(C)C)CC([O-])=O.[Cl-]
reactant | N,N'-dicyclohexylcarbodiimide | 0.02 moles, 4.2 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexyl urea | C1(CCCCC1)NC(=O)NC1CCCCC1 | C13H24N2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | acetyl carnitine trifluoroethyl amide | C(C)(=O)C(O)(C[N+](C)(C)C)CC([O-])=O.FC(C[NH-])(F)F | InChI=1S/C9H17NO4.C2H3F3N/c1-7(11)9(14,5-8(12)13)6-10(2,3)4;3-2(4,5)1-6/h14H,5-6H2,1-4H3;6H,1H2/q;-1
